US08461328B2
A mixture of (S)-pyrrolidine-2-carboxylic acid (1.0 g, 8.69 mmol), cyclobutanone (671 mg, 9.56 mmol) and 10% Pd/C (44 mg) in MeOH (10 mL) was stirred under an atmosphere of hydrogen for 20 hours. The reaction mixture was filtered through Celite® and the filtrate concentrated under vacuum. The resulting residue was triturated with diethyl ether to afford (S)-1-cyclobutyl-pyrrolidine-2-carboxylic acid. 1H NMR (300 MHz, CDCl3) δ: 4.41 (s, 1H), 3.86 (dt, 1H), 3.78-3.63 (m, 2H), 2.78 (m, 1H), 2.55 (m, 1H), 2.57-2.09 (m, 4H), 1.91 (m, 4H).

reactant | (S)-pyrrolidine-2-carboxylic acid | 8.69 mmol, 1.0 g | N1[C@@H](CCC1)C(=O)O | C5H9NO2
reactant | cyclobutanone | 9.56 mmol, 671 mg | C1(CCC1)=O | C4H6O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 44 mg | [Pd] | Pd
product | (S)-1-cyclobutyl-pyrrolidine-2-carboxylic acid | C1(CCC1)N1[C@@H](CCC1)C(=O)O | C9H15NO2
